### PR TITLE
[Merged by Bors] - chore(*): use `Finset.filter` notation here and there

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ZMod/Units.lean [hunk 1]
```diff
@@ -50,7 +50,7 @@ theorem unitsMap_surjective [hm : NeZero m] (h : n ∣ m) :
     have : NeZero n := ⟨fun hn ↦ hm.out (eq_zero_of_zero_dvd (hn ▸ h))⟩
     simp [unitsMap_def, - castHom_apply]
   intro x hx
-  let ps := m.primeFactors.filter (fun p ↦ ¬p ∣ x)
+  let ps : Finset ℕ := {p ∈ m.primeFactors | ¬p ∣ x}
```
Comment (YaelDillies) [inline Mathlib/Data/ZMod/Units.lean:53]: Do you need the type ascription here? Just wondering

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Data/ZMod/Units.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Data/ZMod/Units.lean:53]: No, I just assumed that it's less fragile this way.

File: Mathlib/Data/Set/Finite/Basic.lean [hunk 2]
```diff
@@ -156,7 +156,7 @@ protected alias ⟨_, toFinset_strictMono⟩ := Finite.toFinset_ssubset_toFinset
 
 @[simp high]
 protected theorem toFinset_setOf [Fintype α] (p : α → Prop) [DecidablePred p]
-    (h : { x | p x }.Finite) : h.toFinset = Finset.univ.filter p := by simp
+    (h : { x | p x }.Finite) : h.toFinset = ({x | p x} : Finset α) := by simp
```
Comment (urkud) [inline Mathlib/Data/Set/Finite/Basic.lean:159]: @YaelDillies OTOH, this type annotation is required, otherwise Lean decides to cast LHS to `Set α` instead.

**Comment by b-mehta** [comment]
Thanks!

bors merge
